US04634695
280 ml of a solution of ethyl magnesium bromide in ether were added dropwise at less than 20° C. under an inert atmosphere to 50.05 g of N-methyl-4-bromo-aniline and after stirring for 30 minutes, 28 ml of allyl bromide were added thereto over 15 minutes. The mixture was refluxed for 40 minutes and was allowed to cool. 25 ml of a solution N of ethyl magnesium bromide in ether were added thereto dropwise and the mixture was stirred for 25 minutes and poured into iced ammonium chloride solution. The decanted aqueous phase was extracted with methylene chloride and the organic phase was dried and evaporated to dryness to obtain 61.35 g of N-methyl-N-allyl-4-bromo-aniline.

reactant | ethyl magnesium bromide | C(C)[Mg]Br
reactant | N-methyl-4-bromo-aniline | 50.05 g | CNC1=CC=C(C=C1)Br | C7H8BrN
reactant | allyl bromide | 28 ml | C(C=C)Br | C3H5Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | CCOCC | C4H10O
product | N-methyl-N-allyl-4-bromo-aniline | 61.35 g | CN(C1=CC=C(C=C1)Br)CC=C | C10H12BrN
